US07122692B2
4 g of acetoxy-triisopropylsilane and 1.6 g of acrylic acid (ATOFINA Norsocryl AA®) in 100 ml of toluene and 1 mL of N,N-dimethylformamide are mixed and heated. Azeotropic distillation of acetic acid affords triisopropylsilyl acrylate.

reactant | acetoxy-triisopropylsilane | 4 g | C(C)(=O)O[Si](C(C)C)(C(C)C)C(C)C | C11H24O2Si
reactant | acrylic acid | 1.6 g | C(C=C)(=O)O | C3H4O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | triisopropylsilyl acrylate | C(C=C)(=O)O[Si](C(C)C)(C(C)C)C(C)C | C12H24O2Si
